* /Users/dominikguz/Documents/LTspice/examples/Educational/BalancedMixer.asc
L1 N004 0 .05µh
L2 N002 0 .625µh
L3 0 N010 .625µh
L4 0 N005 .05µh
L5 N009 N008 .625µh
L6 N008 N001 .625µh
D1 N002 N009 D
D2 N009 N010 D
D3 N010 N001 D
D4 N001 N002 D
V1 N003 0 SINE(0 3 10000000)
V4 NC_01 0 SINE(0 2 10000)
R1 N004 N003 50
R2 N008 N011 50
V2 N011 0 wavefile="/Users/dominikguz/Downloads/ltsound1.wav"
R3 N007 N006 150
C1 N007 0 100p
C2 N006 N005 100p
R4 N006 0 160
.model D D
.lib /Users/dominikguz/Library/Application Support/LTspice/lib/cmp/standard.dio
k1 L1 L2 L3 .90
* Input matching network
* Vin
* T37-6 core; 4:14:14 turns
k2 L4 L5 L6 .90
* Input matching network
* Vin
* T37-6 core; 4:14:14 turns
.tran 0.0002
.four 10000000 5
* .ac lin 200 10e4 20e7
.backanno
.end
