*
XU1 0 N003 N005 N001 N006 N003 N004 N001 NE555
V1 N001 0 5
V2 N002 0 SINE(2 2 10000)
C1 N006 N002 1µ
R1 N001 N004 500
C2 N003 N001 10n
R2 N003 N004 500
.tran 0.001
.lib NE555.sub
.backanno
.end
