* H:\Electronics\git\sconnsim\schematic\GilbertCell.asc
V1 N006 0 SINE(0 3.5 10000)
Q1 N003 N007 N009 0 NPN
Q2 N009 N011 N015 0 NPN
Q3 N002 N004 N009 0 NPN
Q4 N002 N007 N010 0 NPN
Q5 N003 N004 N010 0 NPN
Q6 N010 N014 N015 0 NPN
R1 N001 N003 1.5k
V2 N001 0 6
V3 N008 0 3.5
V4 N017 0 1.5
V5 N016 0 SINE(0 1.5 1000)
I1 N015 0 2m
C1 N001 N002 33n
L1 N001 N002 470µ
R3 N001 N002 1.5k
R2 N005 N006 50
C2 N005 N007 1µ
R4 N004 N008 1.5k
V6 N012 0 3.5
R5 N007 N012 1.5k
R6 N014 N017 1.5k
R7 N013 N016 50
C3 N011 N013 1µ
R8 N011 N018 1.5k
V7 N018 0 1.5
C4 N014 N015 1µ
C5 N004 0 1µ
.model NPN NPN
.model PNP PNP
.lib C:\IDE\LTSpice\lib\cmp\standard.bjt
.tran 10m
.backanno
.end
