*
V1 N010 0 5
XU2 N010 0 N018 N019 N010 N009 LTC6990
C3 N010 0 100n
R7 N018 0 249k
R8 N018 N017 75k
XU3 N018 N016 N010 0 N017 LTC6078
R9 N015 N016 100k
R10 N017 N016 30.1k
C4 N017 N016 33p
R11 N019 0 280k
R12 N010 N019 1m
V12 NC_01 0 wavefile="/Users/dominikguz/Downloads/ltsound1.wav"
V2 N015 0 SINE(1 1 15000)
XU4 N009 0 0 0 NC_02 N010 0 N012 LTC1565 vvar=0 fvar=0 gvar=0
A1 N001 0 N009 0 0 N001 N005 0 DFLOP Vhigh=5
A2 N002 0 N005 0 0 N002 N006 0 DFLOP Vhigh=5
A3 N003 0 N006 0 0 N003 N007 0 DFLOP Vhigh=5
A4 N004 0 N007 0 0 N004 N008 0 DFLOP Vhigh=6
R1 N011 N012 1k
V3 N013 0 SINE(2 2 10000000)
R2 N013 N011 1k
D1 N011 N014 D
R3 N014 0 1k
.model D D
.lib /Users/dominikguz/Library/Application Support/LTspice/lib/cmp/standard.dio
.tran 10m
.lib LTC5.lib
.lib LTC1565.sub
.lib LTC6990.sub
.backanno
.end
