*
C1 N001 0 6800µ
V1 N002 0 SINE(0 230 60)
D1 0 N004 D
D2 0 N006 D
D3 N006 N001 D
D4 N004 N001 D
R1 N005 N009 100
R2 N009 0 1020
D6 N005 N007 D
D7 N001 N008 D
R3 N007 0 680
R4 N008 0 680
L2 N003 0 0.01
L3 N006 N004 0.00009
C2 N005 0 1000µ
R5 N003 N002 0.05
XU2 N009 N005 N001 LT1083
R7 N005 0 10
C3 N001 0 1000µ
.model D D
.lib /Users/dominikguz/Library/Application Support/LTspice/lib/cmp/standard.dio
.tran 0.1
k1 L2 L3 .90
.lib LT1083.lib
.backanno
.end
